US03989749
To a solution of sodium hydroxide (0.4 g., excess) in water (50 ml.) and ethanol (50 ml.) is added 7-[N-(4-hydroxynonyl)-cyanamido]-2-methylheptanoic acid (1.5 g., 0.005 mole). The clear solution that is obtained is treated with 30% hydrogen peroxide (1.25 ml., excess). After two hours the reaction is poured into water (125 ml.), acidified with 5% hydrochloric acid and extracted with ethyl acetate (3 × 75 ml.). The organic phase is washed with brine, then dried over sodium sulfate. Evaporation of the solvent yields 7-[1-(4-hydroxynonyl)ureido]-2-methyl-heptanoic acid as a viscous oil.

reactant | sodium hydroxide | 0.4 g | [OH-].[Na+]
reactant | 7-[N-(4-hydroxynonyl)-cyanamido]-2-methylheptanoic acid | 0.005 mole, 1.5 g | OC(CCCN(C#N)CCCCCC(C(=O)O)C)CCCCC | C18H34N2O3
reactant | hydrogen peroxide | 1.25 ml | OO | H2O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 125 ml | O | H2O
product | 7-[1-(4-hydroxynonyl)ureido]-2-methyl-heptanoic acid | OC(CCCN(C(=O)N)CCCCCC(C(=O)O)C)CCCCC | C18H36N2O4
